US07579341B2
(R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-((S)-2-methoxycarbonyl-pyrrolidin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 9 from 100 mg (0.18 mmol) (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 42 mg (0.20 mmol) methyl(S)-1-piperidin-4-yl-pyrrolidine-2-carboxylate.

reactant | (R)-2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.18 mmol, 100 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C(=O)O)C=CC=C2 | C25H26ClF3N4O5
reactant | methyl(S)-1-piperidin-4-yl-pyrrolidine-2-carboxylate | 0.20 mmol, 42 mg | N1CCC(CC1)N1[C@@H](CCC1)C(=O)OC | C11H20N2O2
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-((S)-2-methoxycarbonyl-pyrrolidin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1[C@@H](CCC1)C(=O)OC)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C36H44ClF3N6O6
